US05942544
Part B. 3-[3-(4-nitrophenyl)-1-oxo-2-propenyl]benzonitrile (0.500 gm, 1.79 mmol) was suspended in toluene and methyl (triphenylphosphoranylidene)acetate (0.600 gm, 1.79 mmol) was added. The suspension was heated to reflux (at which point the solution becomes homogeneous) for 5 hrs. The reaction was cooled to room temperature and the solvent removed under vacuum. The residue was chromatographed on silica gel (20% ethyl acetate/toluene) to afford methyl 3-(3-cyanophenyl)-5-(4-nitrophenyl)-2,4-pentadienoate 0.441 gm (74%) as a mixture of the E/Z isomers. MS: 335(M+H)+ ; 1H NMR (CDCl3): 3.6 (s, 3H), 3.8 (s, 3H), 5.9 (s, 1H), 6.25 (m, 2H), 6.6 (d, 1H), 7.15 (m, 2H), 7.6 (m, 11H), 8.2 (d, 4H), 8.65 (d, 1H).

reactant | 3-[3-(4-nitrophenyl)-1-oxo-2-propenyl]benzonitrile | 1.79 mmol, 0.500 gm | [N+](=O)([O-])C1=CC=C(C=C1)C=CC(=O)C=1C=C(C#N)C=CC1 | C16H10N2O3
reactant | methyl (triphenylphosphoranylidene)acetate | 1.79 mmol, 0.600 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(3-cyanophenyl)-5-(4-nitrophenyl)-2,4-pentadienoate | 0.441 gm, 74% | C(#N)C=1C=C(C=CC1)C(=CC(=O)OC)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C19H14N2O4
